US06225316B1
b) Methyl-(3-o-tolyl-pyridin-4-yl)-amine
A mixture of 1.26 g (6.75 mmol) (3-bromo-pyridin-4-yl)-methyl-amine, 13 ml toluene, 7 ml 2 N sodium carbonate solution, 234 mg (0.203 mmol) tetrakis(triphenylphosphine)palladium(0) and 1.01 g (7.43 mmol) o-tolylboronic acid was heated under argon at 80° C. for 12 h. After cooling to room temperature, the aqueous phase was separated and washed twice with toluene. The combined organic layers were washed with brine, dried (sodium sulfate) and evaporated. The residue was purified by flash chromatography to yield 164 mg (12%) of the title compound as a yellow oil.

reactant | (3-bromo-pyridin-4-yl)-methyl-amine | 6.75 mmol, 1.26 g | BrC=1C=NC=CC1NC | C6H7BrN2
reactant | sodium carbonate | 2 N, 7 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-tolylboronic acid | 7.43 mmol, 1.01 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.203 mmol, 234 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl-(3-o-tolyl-pyridin-4-yl)-amine | 164 mg, 12% | CNC1=C(C=NC=C1)C1=C(C=CC=C1)C | C13H14N2
